US06172085B2
1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(2,2-diphenylethyl)-4-piperidinemethylamine trihydrochloride
To a solution of 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(2,2-diphenylethyl)-4-piperidinecarboxamide (1.0 g) in tetrahydrofuran (20 mL) was added 12 mL of 1 M borane tetrahydrofuran complex solution in tetrahydrofuran dropwise with ice-cooling and the mixture was refluxed under nitrogen gas for 6 hours. After this reaction mixture was cooled with ice, 8 mL of 5N-hydrochloric acid was added dropwise, followed by stirring. The mixture was added dropwise to a suspension of sodium hydrogen carbonate (4 g) in water/diisopropyl ether for neutralization and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated. After the residue was dissolved in methanol, 10 mL of 5N-hydrochloric acid was added and the mixture was refluxed for 1 hour. After ice-cooling, the mixture was diluted with 20 mL of 5N-aqueous sodium hydroxide and extracted with 3 portions of diethyl ether. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate/triethylamine=30:10:1 to 20:10:1) to recover 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(2,2-diphenylethyl)-4-piperidinemethylamine. After this product was dissolved in methanol, a stoichiometric excess of 10% HCl solution in methanol was added dropwise and the resulting mixture was concentrated under reduced pressure to provide 0.74 g of the title compound.

reactant | 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(2,2-diphenylethyl)-4-piperidinecarboxamide | 1.0 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)C(=O)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)C)C | C33H41N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | 4 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water diisopropyl ether | O.C(C)(C)OC(C)C
product | 1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(2,2-diphenylethyl)-4-piperidinemethylamine trihydrochloride | 0.74 g, Yield 61% | Cl.Cl.Cl.NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)CNCC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)C)C | InChI=1S/C33H43N3O.3ClH/c1-23-24(2)32-29(25(3)31(23)34)19-33(4,37-32)22-36-17-15-26(16-18-36)20-35-21-30(27-11-7-5-8-12-27)28-13-9-6-10-14-28;;;/h5-14,26,30,35H,15-22,34H2,1-4H3;3*1H
